US05356897
A mixture of sodium (28 mg), ethyl acetate (0.12 ml) and ethyl formate (0.10 ml) in dry toluene (0.5 ml) was stirred at ambient temperature for 14 hours under nitrogen. To the mixture was added 5-amino-4-(4-fluorophenyl)-3-(pyridin-4-yl)pyrazole (150 mg) in dry ethanol (1.5 ml) and the mixture was refluxed for 7 hours. The reaction mixture was cooled and the separated solid was collected and dried. The solid was dissolved in water (15 ml) and the solution was washed with ether. The aqueous solution was neutralized with diluted hydrochloric acid. The separated solid was collected, washed with water and dried to give 4,5-dihydro-3-(4-fluorophenyl)-5-oxo-2-(pyridin-4-yl)pyrazolo[1,5-a]pyrimidine (62 mg).

reactant | sodium | 28 mg | [Na] | Na
reactant | ethyl acetate | 0.12 ml | C(C)(=O)OCC | C4H8O2
reactant | ethyl formate | 0.10 ml | C(=O)OCC | C3H6O2
reactant | 5-amino-4-(4-fluorophenyl)-3-(pyridin-4-yl)pyrazole | 150 mg | NC1=C(C(=NN1)C1=CC=NC=C1)C1=CC=C(C=C1)F | C14H11FN4
solvent | toluene | 0.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
product | 4,5-dihydro-3-(4-fluorophenyl)-5-oxo-2-(pyridin-4-yl)pyrazolo[1,5-a]pyrimidine | 62 mg | FC1=CC=C(C=C1)C=1C(=NN2C1NC(C=C2)=O)C2=CC=NC=C2 | C17H11FN4O
